US08981104B2
rac-5-{[2-(5-Fluoro-2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylic acid
72.8 g (223.73 mmol) of rac-5-{[2-(5-fluoro-2-methoxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carbonitrile were taken up in 360 ml of hydrobromic acid (48% in water) and initially stirred at boiling point for 12 h, then cooled to room temperature and allowed to stand at this temperature overnight. The reaction solution was then diluted with 400 ml of water and adjusted to pH 6 using saturated sodium bicarbonate solution. The crystals formed were filtered off with suction, washed with water and dried under reduced pressure at 50° C. This gave 59 g (178.59 mmol, 80% of theory) of the target compound.

reactant | rac-5-{[2-(5-fluoro-2-methoxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carbonitrile | 223.73 mmol, 72.8 g | FC=1C=CC(=C(C1)CCNC1C=2C=CC(=NC2CCC1)C#N)OC | C19H20FN3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | 360 ml | Br | BrH
solvent | water | 400 ml | O | H2O
product | rac-5-{[2-(5-Fluoro-2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylic acid | FC=1C=CC(=C(C1)CCNC1C=2C=CC(=NC2CCC1)C(=O)O)O | C18H19FN2O3
